US07589232B2
Step a) Formation of methyl 3-[(4-dec-1-yn-1-ylbenzyl)(hexanoyl)amino]benzoate
The titled compound was prepared following the procedure G using methyl 3-[(4-dec-1-yn-1-ylbenzyl)amino]benzoate hydrochloride and hexanoyl chloride as a pale yellow oil (74%). 1H NMR (CDCl3, 300 MHz) δ 7.98 (d, J=7.6 Hz, 1H), 7.73 (s, 1H), 7.38 (m, 1H), 7.30 (d, J=7.9 Hz, 2H), 7.08 (m, 3H), 4.88 (s, 2H), 3.93 (s, 3H), 2.39 (t, J=7.0 Hz, 2H), 2.04 (t, J=7.2 Hz, 2H), 1.60 (m, 4H); 1.44 (m, 2H), 1.35-1.15 (m, 12H), 0.89 (t, J=6.8 Hz, 3H), 0.84 (t, J=7.0 Hz, 3H), M1(ESI): 476.5. HPLC, Rt: 6.17 min (Purity: 100%).

reactant | methyl 3-[(4-dec-1-yn-1-ylbenzyl)amino]benzoate hydrochloride | Cl.C(#CCCCCCCCC)C1=CC=C(CNC=2C=C(C(=O)OC)C=CC2)C=C1
reactant | hexanoyl chloride | C(CCCCC)(=O)Cl | C6H11ClO
product | methyl 3-[(4-dec-1-yn-1-ylbenzyl)(hexanoyl)amino]benzoate | C(#CCCCCCCCC)C1=CC=C(CN(C=2C=C(C(=O)OC)C=CC2)C(CCCCC)=O)C=C1 | C31H41NO3
